US05371100
To a solution of (1S)-1-[(2R)-2-(2,4-difluorophenyl)-2-oxiranyl]ethanol (200 mg) in tetrahydrofuran (5 ml) were added triphenylphosphine (787 mg), tetrazole (210 mg) and diethyl azodicarboxylate (0.47 ml) at 0° C. under argon atmosphere. The mixture was stirred for 16 hours at room temperature. To the reaction mixture were added ethyl acetate (30 ml) and water (15 ml). The separated aqueous layer was extracted with ethyl acetate (20 ml). The combined organic layers were washed with water and saturated saline, dried (MgSO4) and concentrated. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=4:1→3:1→2:1) to give (2S)-2-(2,4-difluorophenyl)-2-[(1R)-1-(2H-tetrazol-2-yl) ethyl]oxirane (176 mg).

reactant | (1S)-1-[(2R)-2-(2,4-difluorophenyl)-2-oxiranyl]ethanol | 200 mg | FC1=C(C=CC(=C1)F)[C@]1(OC1)[C@H](C)O | C10H10F2O2
reactant | triphenylphosphine | 787 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tetrazole | 210 mg | N1N=NN=C1 | CH2N4
reactant | diethyl azodicarboxylate | 0.47 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | water | 15 ml | O | H2O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | (2S)-2-(2,4-difluorophenyl)-2-[(1R)-1-(2H-tetrazol-2-yl) ethyl]oxirane | 176 mg | FC1=C(C=CC(=C1)F)[C@]1(OC1)[C@@H](C)N1N=CN=N1 | C11H10F2N4O
